Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abd pain
 
Major Surgical or Invasive Procedure:
Diagnostic laparoscopy

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical
history of perforated appendicitis in ___ treated with ___ 
drain,
prolonged antibiotics followed by appendectomy one month later
who presents to the hospital with abdominal pain.  

Re: abdominal pain - she felt this 2 days prior to admission
which she initially described as bloating, but noted that her
stomach was "hard, and wouldn't push in." Later, she had brief, 
2
second stabbing pains in her left and right side that were not
precipitated by any movement.  She has no nausea, vomiting, 
early
satiety and had gained 9 pounds in the past month which she
attributes to being at home and not at work which results in a
change in her eating habits.  She also felt a fever and chills,
but did not take her temperature.  She went to see her PCP the
day prior to admission who recommended a CT scan.  The day of
admission, she had the scan in the morning.  It reportedly
showed, a "complex finding in the pelvis. 3 cm fluid-filled
structure with extensive surrounding inflammation in the lower
mid abdomen with associated 3 cm soft tissue mass." Patient was
told to present to the nearest hospital.

She presented to ___ where WBC 9.2 and Hgb
9.6.  Patient was evaluated by the surgical team at ___ who recommended transfer for the patient to be
evaluated by the colorectal surgery team, concerning for 
possible
malignancy versus secondary hydrosalpinx.

Re: anemia - she states that she has been having heavy periods,
where they last 8 days, require ___ pads/day the first 5 days,
then ___ pads a day after.  They are associated with cramping. 
She also notes that she has possibly had black, tarry stools for
the past weeks, but no gross blood.  

Re: fatigue - this is new, where she gets tired after doing
housework.  There is no dyspnea, but she notes that her muscles
ache easily.  

Vitals in the ER: 95.7  82  166/86  16  99% RA (bp decreased to
101/57 when sleeping)

There, the patient received no interventions.  Colorectal 
surgery
was consulted and said admit to medicine.  

ROS: Positive for urinary frequency perhaps for the past month
but no dysuria.  Pertinent positives and negatives as noted in
the HPI.  All other systems were reviewed and are negative. 

 
Past Medical History:
- perforated appendicitis in ___ treated with drain, 
prolonged
antibiotics followed by appendectomy one month later, done in 
___.   
- C-section ___

 
Social History:
___
Family History:
Mother had hysterectomy for uterine bleeding and lumpectomy for
breast cancer.  Father has DM; she has no siblings. 

 
Physical Exam:
ADMIT EXAM
==========
VITALS: 98.2 97 / 65 8118 100 RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular rate; normal perfusion, no appreciable JVD
RESP: Symmetric breathing pattern with no stridor. Breathing is
non-labored
GI: Abdomen soft, mildly distended, mildly tender with no 
rebound
or guarding, no hepatosplenomegaly appreciated. No abdominal 
drains. 
GU: Some tenderness in her lower abdomen, no foley 
MSK: Neck supple, normal muscle bulk and tone 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: normal thought content, logical thought process,
appropriate affect

DISCHARGE EXAM
==============
Vitals: 98.3 113/73 72 18 100 RA
Gen: A&Ox3, well-appearing female, in NAD
HEENT: No scleral icterus, no palpable LAD
Pulm: CTAB, no w/r/r
CV: NRRR, no m/r/g
Abd: soft, NT/ND, no rebound/guarding, no palpable masses,
incisions c/d/I, 
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits

 
Pertinent Results:
___ 11:57PM BLOOD WBC-8.9 RBC-4.06 Hgb-8.7* Hct-29.6* 
MCV-73* MCH-21.4* MCHC-29.4* RDW-15.9* RDWSD-41.8 Plt ___
___ 11:57PM BLOOD ___ PTT-31.5 ___
___ 11:57PM BLOOD Glucose-85 UreaN-4* Creat-0.5 Na-142 
K-3.5 Cl-107 HCO3-24 AnGap-11
___ 11:57PM BLOOD ALT-43* AST-30 LD(LDH)-126 AlkPhos-106* 
TotBili-0.2
___ 11:57PM BLOOD Albumin-3.2* Iron-20*
___ 11:57PM BLOOD calTIBC-312 VitB12-175* Ferritn-34 
TRF-240
___ 11:57PM BLOOD TSH-5.6*
___ 11:57PM BLOOD T4-4.9
___ 12:08AM BLOOD Lactate-1.1

___ 05:17AM BLOOD WBC-9.9 RBC-4.63 Hgb-9.8* Hct-32.6* 
MCV-70* MCH-21.2* MCHC-30.1* RDW-15.9* RDWSD-39.5 Plt ___
___ 05:17AM BLOOD Glucose-136* UreaN-6 Creat-0.6 Na-138 
K-4.5 Cl-99 HCO3-25 AnGap-14
___ 05:17AM BLOOD Calcium-9.0 Phos-3.8 Mg-1.8

CT ABD:
IMPRESSION: 
  
  
1. Finding concerning for a mucinous adenocarcinoma of the 
appendix with signs 
of superimposed infection. In the setting of an appendicectomy 
in ___, 
other differential considerations include tubo-ovarian abscess 
with the 
presence of a hydrosalpinx. Pelvic MRI with without intravenous 
contrast is 
recommended. 
2. Severe inflammatory changes in the pelvis. 
  
RECOMMENDATION(S): Pelvic MRI with and without intravenous 
contrast. 
  

MRI PELVIS:
IMPRESSION: 
  
  
1. 4.4 x 3.4 cm T2 hyperintense oval structure with peripheral 
enhancement 
located to the right of the midline pelvis with extensive 
adjacent 
inflammatory changes, suspicious for a ruptured mucocele given 
intimate 
association with cecal base, possible lack of prior appendectomy 
history, and 
calcification on CT. Alternatively, a ruptured endometrioma may 
be 
considered. An abscess is felt to be less likely. 
2. Ill defined T2 hypointense soft tissue at the cecal base 
demonstrating 
progressive postcontrast enhancement may represent fibrosis, 
endometriosis, or 
clot. 
3. Additional findings compatible with deep infiltrating 
endometriosis 
involving the anterior and posterior cul de sac, with bilateral 
endometriomas 
and left hematosalpinx. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with appendicitis and abscess 
___ treated with ___ drainage and antibiotics followed by 
attempted appendectomy in ___, found only to have "liquefied" 
appendix which was not removed, presents with recurrent abd pain 
and new RLQ/adnexal mass.

# RLQ/Adnexal Mass:
Patient was clinically stable with only mild pain.  Imaging here 
including pelvic MRI reviewed and suspected to have ruptured 
endometrioma vs mucocele vs malignancy, not abscess.  In review 
of OSH records, they never removed the appendix.  They saw only 
mucinous tissue at that time and cytology showed only atypical 
cells and stains were negative for mucin or other markers.  The 
true etiology was not clear and further evaluation was 
necessary. Colorectal and GYN onc surgery were consulted.  She 
went for diagnostic lap on ___ and mucinous cecal mass was 
noted with biopsies taken (fluid and omentum) and sent for path. 
Patient did well in the post-operative period with no 
complications noted. See operative report for full details. By 
discharge she was stable, ambulating, and voiding well. She has 
f/u planned to review biopsy results and plan further 
treatment/management.

# Iron deficiency Anemia:
# Menorrhagia/Endometriosis:
Known iron def anemia previously treated with supplements.  
Source likely heavy menses.  MRI pelvis demonstrated 
endometriosis as well.  She will benefit from close GYN follow 
up to consider further mgt of this.  TSH mildly elevated but T4 
is
nl.
- s/p IV iron while she was here

# Pyuria:
___ be bladder irritation with adjacent inflammatory process, 
but UTI was possible but felt less likely. Her only symptom was 
urinary frequency.  
- Culture was negative, no empiric ABX at this time

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
2. Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0 
2.  Senna 8.6 mg PO BID  
3.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
4.  Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal/appendiceal mass
Iron deficiency anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of an abdominal/appendix mass 
seen on CT scan.  You had an MRI and were evaluated by our 
colorectal team and gynecology surgery team.  You went to the OR 
for a diagnostic laparoscopy on ___ where a mucinous mass 
was found. Biopsies were taken and sent to pathology.

Please follow up very closely as recommended below for further 
care.
 
Followup Instructions:
___